US07557114B2
c) 4-Trifluoromethyl-2,3-dihydro-1H-indole
4.4 mmol of 4-trifluoromethyl-1H-indole were dissolved in 8 ml acetic acid. 8.8 mmol of sodium cyanoborohydride were added at once and the reaction mixture stirred at room temperature for 3.5 hours. 20 ml of water were added. The reaction mixture is treated with aqueous sodium hydroxide 40% until basic. Extraction with ethyl acetate yields the crude title compound as a yellowish waxy solid. Yield=76%. MS (m/e): 188.4 ([M+H]+, 97%).

reactant | 4-trifluoromethyl-1H-indole | 4.4 mmol | FC(C1=C2C=CNC2=CC=C1)(F)F | C9H6F3N
reactant | sodium cyanoborohydride | 8.8 mmol | C(#N)[BH3-].[Na+]
reactant | water | 20 ml | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetic acid | 8 ml | C(C)(=O)O | C2H4O2
product | 4-Trifluoromethyl-2,3-dihydro-1H-indole | Yield=76% | FC(C1=C2CCNC2=CC=C1)(F)F | C9H8F3N
